US07202363B2
N-(4-{4-amino-7-[(1E)-3-oxoprop-1-enyl]furo[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-benzimidazole-2-carboxamide
A mixture of N-[4-(4-amino-7-iodofuro[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-benzimidazole-2-carboxamide (1.50 g, 2.78 mmol) in 1,2-dimethoxyethane (30 mL) and water (15 mL) was reacted 2-[(E)-3,3-diethoxy-1-propenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.42 g, 5.56 mmol,), sodium carbonate (1.17 g, 11.12 mmol) and tetrakis triphenylphosphine palladium (0) (0.19 g, 0.17 mmol) at 80° C. for 18 hours. Additional 2-[(E)-3,3-diethoxy-1-propenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1.00 g, 3.90 mmol,), sodium carbonate (0.508 g, 4.80 mmol) and tetrakis triphenylphosphine palladium (0) (0.19 g, 0.17 mmol) was added and the mixture was heated for another 24 hours. Additional tetrakis triphenylphosphine palladium (0) (0.32 g, 0.27 mmol) was added and the mixture was heated for another 24 hours after which time all starting material was consumed. The solvent was removed in vacuo and the residue was triturated with water (30 mL) for 3 hours. The solid was collected by filtration and dried in vacuo. The crude product was suspended in acetone (60 mL) and water (8 mL) and reacted with p-toluenesulfonic acid monohydrate (0.10 g, 0.52 mmol) at ambient temperature for eighteen hours. The acetone was removed in vacuo and the precipitate was filtered, washing with water. The precipitate was triturated with 2-propanol (30 mL) for 1 hour. The solvent was removed an the residue was partitioned between dichloromethane (20 mL) and water (40 mL). The organic layer was dried over anhydrous magnesium sulfate and the solvent was removed in vacuo to give the title compound (0.48 g, 31%) as a yellow solid. 1H NMR (DMSO-d6, 400 MHz) δ 10.19 (s, 1H), 9.64 (d, 1H), 8.52 (dd, 1H), 8.26 (s, 1H), 8.21 (s, 1H), 7.86 (d, 1H), 7.75–7.82 (m, 2H), 7.47 (t, 1H), 7.39 (t, 1H), 7.32 (d, 1H), 7.21 (dd, 1H), 6.93 (dd, 1H), 4.25 (s, 3H), 4.04 (s, 3H), 1.86 (s, 3H); RP-HPLC (Conditions g) Rt 12.21 min.; MS: MH+ 468.

reactant | N-[4-(4-amino-7-iodofuro[3,2-c]pyridin-3-yl)-2-methoxyphenyl]-1-methyl-1H-benzimidazole-2-carboxamide | 2.78 mmol, 1.50 g | NC1=NC=C(C2=C1C(=CO2)C2=CC(=C(C=C2)NC(=O)C2=NC1=C(N2C)C=CC=C1)OC)I | C23H18IN5O3
reactant | 2-[(E)-3,3-diethoxy-1-propenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 5.56 mmol, 1.42 g | C(C)OC(/C=C/B1OC(C(O1)(C)C)(C)C)OCC | C13H25BO4
reactant | sodium carbonate | 11.12 mmol, 1.17 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-[(E)-3,3-diethoxy-1-propenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 3.90 mmol, 1.00 g | C(C)OC(/C=C/B1OC(C(O1)(C)C)(C)C)OCC | C13H25BO4
reactant | sodium carbonate | 4.80 mmol, 0.508 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 0.52 mmol, 0.10 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
solvent | water | 15 mL | O | H2O
solvent | water | 8 mL | O | H2O
product | N-(4-{4-amino-7-[(1E)-3-oxoprop-1-enyl]furo[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-benzimidazole-2-carboxamide | 0.48 g, 31% | NC1=NC=C(C2=C1C(=CO2)C2=CC(=C(C=C2)NC(=O)C2=NC1=C(N2C)C=CC=C1)OC)\C=C\C=O | C26H21N5O4
